US09062136B2
5-hydroxy-5-methylhex-3-ynyl acetate
100 g (0.78 mol) of 5-methylhex-3-yne-1,5-diol were dissolved in 800 ml of dichloromethane and cooled to 0° C. 113 ml (1.11 mol) of acetic anhydride were added in one portion. 127 ml (1.25 mol) of triethylamine were cooled to 0-2° C. and added within 20 min. The reaction mixture was stirred at 0° C. for 2 h. The cooling was removed and the reaction mixture was stirred a 20° C. for 16 h. The mixture was cooled to 0° C. and 1200 ml of a 5% hydrochloric acid solution were added, in the course of which the temperature of the reaction mixture was kept below 5° C. The mixture was extracted three times with 150 ml each time of tert-butyl methyl ether (MTBE), and the combined organic phases were stirred four times with 400 ml each time of 5% aqueous sodium hydrogen carbonate solution for 1 h each time, until no further evolution of gas was observable in each case. The organic phase was washed with 1 l of demineralized water and dried over sodium sulfate, and the solvent was removed. This gave 122.21 g (yield 92%) of a clear, dark yellow liquid. The purity was determined by gas chromatography to be 99.5%.

reactant | 5-methylhex-3-yne-1,5-diol | 0.78 mol, 100 g | CC(C#CCCO)(C)O | C7H12O2
reactant | acetic anhydride | 1.11 mol, 113 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.25 mol, 127 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 5-hydroxy-5-methylhex-3-ynyl acetate | yield 92% | C(C)(=O)OCCC#CC(C)(C)O | C9H14O3
